US07183270B2
A sample of (1R,6S)-6-benzyloxycarbonylamino-cyclohex-3-enecarboxylic acid methyl ester (91.4 g) was dissolved in MeOH (500 mL) prior to the dropwise addition of NaOH (25.3 g) in water (95 mL). After 3 h, the solution was partially concentrated and an Et2O/water mixture was added. The aqueous layer was separated and was acidified (pH ˜2) with concentrated HCl. The resulting mixture was extracted with EtOAc. The combined organic layers were washed with water and brine before they were dried, filtered, and concentrated to give (1R,6S)-6-benzyloxycarbonylamino-cyclohex-3-enecarboxylic acid (72.7 g). MS found: (M+H)+=276.2.

reactant | (1R,6S)-6-benzyloxycarbonylamino-cyclohex-3-enecarboxylic acid methyl ester | 91.4 g | COC(=O)[C@@H]1CC=CC[C@@H]1NC(=O)OCC1=CC=CC=C1 | C16H19NO4
reactant | NaOH | 25.3 g | [OH-].[Na+]
solvent | MeOH | 500 mL | CO | CH4O
solvent | water | 95 mL | O | H2O
product | (1R,6S)-6-benzyloxycarbonylamino-cyclohex-3-enecarboxylic acid | 72.7 g | C(C1=CC=CC=C1)OC(=O)N[C@H]1CC=CC[C@H]1C(=O)O | C15H17NO4
